US04853389
Step (2) Preparation of N-(1,1-Dimethylethyl)-4-hydroxy-2-(methylthio)-5-pyrimidinesulfonamide
N-(1,1-Dimethylethyl)-1,2,3,4-tetrahydro-4-oxo-2-thioxo-5-pyrimidinesulfonamide (30.69 g, 116.7 mmol) was dissolved in DMF (300 mL) and methyliodide was added (8.72 mL, 140 mmoles) and the mixture was stirred at ambient temperature for 24 hours. An additional quantity of methyliodide (2.5 mL) was added and the reaction stirred an additional 24 hours. A final addition of methyliodide (2.0 mL) was made followed by another 24 hours of stirring to complete the reaction. The DMF was removed under reduced pressure, the residue was suspended in water (300 mL), sodium carbonate was added until the solution was neutralized, then the pH was adjusted to 8 with sodium hydroxide pellets. The aqueous solution was filtered, extracted with three 150 mL portions of ethyl acetate. The pH of the aqueous portions was adjusted to 3 with 37% HCl, the white solid that precipitated out was filtered, washed with water, and dried in a vacuum oven to yield 20.16 gm (72.78 mmol, 62%) of product which was used as is in the next step. An analytical sample crystallized from ethanol/water, had a m.p. 225.5° C.

reactant | N-(1,1-Dimethylethyl)-1,2,3,4-tetrahydro-4-oxo-2-thioxo-5-pyrimidinesulfonamide | 116.7 mmol, 30.69 g | CC(C)(C)NS(=O)(=O)C=1C(NC(NC1)=S)=O | C8H13N3O3S2
reactant | methyliodide | CI | CH3I
reactant | methyliodide | 2.5 mL | CI | CH3I
reactant | methyliodide | 2.0 mL | CI | CH3I
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | N-(1,1-Dimethylethyl)-4-hydroxy-2-(methylthio)-5-pyrimidinesulfonamide | 72.78 mmol, 20.16 gm, 62% | CC(C)(C)NS(=O)(=O)C=1C(=NC(=NC1)SC)O | C9H15N3O3S2
